Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Tegaderm / Prinivil / Reglan
 
Attending: ___.
 
Chief Complaint:
R foot ulcers
 
Major Surgical or Invasive Procedure:
OPERATION PERFORMED:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Contralateral third-order catheterization of right above-
    knee popliteal artery.
3. Abdominal aortogram with pelvic angiogram.
4. Serial arteriograms of the right lower extremity.
5. Stenting of right above-knee popliteal artery.
6. Perclose closure of right, left common femoral
    arteriotomy.

 
History of Present Illness:
Patient is a ___ with multiple medical problems s/p renal
transplant and significant arterial and venous insufficiency
disease who presents with right foot arterial ischemia ulcers. 
We
have attempted multiple revascularization attempts and Apligraf
skin grafts in the past.  Latest noninvasive arterial study
showed significant right femoral and tibial as well as left
tibial arterial disease.  His right toe ulcerations have been
complicated by MRSA osteomyelitis of the right metatarsals,
treated in the past by longterm vancoymcin and operative
debridement by podiatry.  Patient is scheduled for angiogram and
possible stenting of the right popliteal artery and is admitted
preoperatively for bicarb/mucomyst.  Patient has been off
coumadin since ___, bridged by therapeutic lovenox.

 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 iwth reinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
DM type II in father and paternal grandfather. Mother had "heart 
disease." 
 
Physical Exam:
PE:
T 97.7  P 55  BP 144/63  R 18  SaO2 97% RA
Gen: nad
heent: an-icteric
Lungs: clear
heart: RRR
ABd: soft, nontender, nondistended
Extrem: small healing heel ulcer on left foot, ~ 2 cm clean 
ulcer
on right heel, skin breakdown on dorsal aspect of right foot 
with
multiple clean superficial ulcers on right leg, no sign of
cellulitis, right foot charcot deformity
 
pulses fem  pop dp pt
r      2+    1+ 1+ 1+
l      2+    1+ 1+ 1+ 
 
Pertinent Results:
___ 06:05AM BLOOD 

Hct-27.7*
___ 06:00AM BLOOD 

___ PTT-43.1* ___

___ 06:05AM BLOOD 

UreaN-28* Creat-1.8* K-4.1

___ 06:00AM BLOOD 

Calcium-8.9 Phos-3.6 Mg-1.9

___ 06:00AM BLOOD 

tacroFK-6.5
 
Brief Hospital Course:
___ was admitted on ___ with R lower extremity 
ulcer. He agreed to have an elective surgery. 

Pre-operatively, he was consented. A CXR, EKG, UA, CBC,  
Electrolytes, T/S - were obtained,  all other preparations were 
made.

Pt admitted the night before. received bicarb and Mucomyst. 
Tacrolimus level followed. Transplant consulted. There 
recommendations adhered to.

FFP on call to OR for INR 3.5. Pt received 1 unit before and 1 
unit during procedure.

It was decided that he would undergo:

OPERATION PERFORMED:
1. Ultrasound-guided puncture of left common femoral
    artery.
2. Contralateral third-order catheterization of right above-
    knee popliteal artery.
3. Abdominal aortogram with pelvic angiogram.
4. Serial arteriograms of the right lower extremity.
5. Stenting of right above-knee popliteal artery.
6. Perclose closure of right, left common femoral
    arteriotomy.

He was prepped, and brought down to the Endo suite room for  
surgery. Intra-operatively, he was closely monitored and  
remained hemodynamically stable. He tolerated the procedure well 
 without any difficulty or complication.

Post-operatively, transferred to the PACU for further  
stabilization and monitoring. 

He was then transferred to the VICU for further recovery. While  
in the VICU he received monitored care. When stable he was 
delined. His diet was advanced.  When he was stabilized from the 
acute setting of post operative care, he was transferred to 
floor status 

On the floor, he remained hemodynamically stable with his pain 
controlled. He continues to make steady progress without any 
incidents. He was discharged home in stable condition.

He did receive preoperative hydration. On DC his creatinine is 
stable. Tacrolimus level stable,

 
Medications on Admission:
___: coumadin held for angio, lovenox 80'', plavix 75, asa 81, 
bactrim DS bid, fluconazole 200, prograf 2'', prednisone 5, 
metoprolol 50'', imdur 60, florinef 0.1, lipitor 80, lasix 40'', 
protonix 40, oscal-D daily, mvi, colace 100'', senna, travatan 
eye drops 1 drop left eye daily, lantus 30 units noontime, 
novolog sliding scale, vit C, actonel 35 mg ___, procrit ___ 
SC ___, ferrex ___ daily 
 
Discharge Medications:
1. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
3. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day): Hold for SBP<100, P<60. .  
4. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
11. Tacrolimus 1 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
12. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
13. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 1 months.
Disp:*30 Tablet(s)* Refills:*0*
14. Travoprost 0.004 % Drops Sig: One (1)  Ophthalmic DAILY 
(Daily).  
15. Lantus 100 unit/mL Solution Sig: 20 units at lunch  
Subcutaneous once a day.  
16. Regular Insulin Sliding Scale
Insulin SC Sliding Scale 
Breakfast Lunch Dinner Bedtime 
Regular 
Glucose Insulin Dose 
___   mg/dL ___ amp D50 
61-120 U   0   Units 
121-160   mg/dL 2   Units
161-200   mg/dL 4   Units 
201-240   mg/dL 6   Units 
241-280   mg/dL 8   Units  
> 280   mg/dL ___ M.D. 
17. Coumadin 1 mg Tablet Sig: One (1) Tablet PO once a day: 
Please have your INR followed in your usual manner.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLE ulcerations/ischemia, now s/p ___ angio/PTA/Stent

PMH: DM c/b neuropathy, retinopathy and Charcot foot, ESRD s/p 
renal transplant ___, S/P MI in ___, CAD s/p CABG x 4 in 
___- Echo ___ LV function, Anemia, HTN, ^chol, GERD, RLE 
DVT in ___ life long AC, S/P IVC ___, Osteopenia 
of the hip ___, Diverticulosis, S/P Cryptococcus pneumonia x 2 
in ___, ulnar fx s/p ORIF & iliac crest harvest, s/p IVC 
___, s/p L inguinal, s/p fall-R foot fxs, hernia 
repair, s/p tonsillectomy, angioplasty R popliteal stenosis  

 
Discharge Condition:
Good

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
Take Aspirin 325mg (enteric coated) once daily 
If instructed, take Plavix (Clopidogrel) 75mg once daily
Continue all other medications you were taking before surgery, 
unless otherwise directed
You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
Drink plenty of fluids and eat small frequent meals
It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
When you go home, you may walk and go up and down stairs
You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
After 1 week, you may resume sexual activity
After 1 week, gradually increase your activities and distance 
walked as you can tolerate
No driving until you are no longer taking pain medications
Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
Numbness, coldness or pain in lower extremities 
Temperature greater than 101.5F for 24 hours
New or increased drainage from incision or white, yellow or 
green drainage from incisions
Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___